US04025644
In 20 ml of 1N sodium hydroxide solution, 3.28 g of phenylalanyltyrosine was dissolved and the solution was cooled with ice. To the cold solution were added dropwise 1.7 g of 4-methoxybenzoylchloride and 10 ml of 1N sodium hydroxide solution. After stirring for 2 hours, the mixture was neutralized with hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried and concentrated to dryness. The residue was crystallized from ethyl acetate to give 2.6 g of N-(4-methoxybenzoyl)-phenylalanyltyrosine in a yield of 56%.

reactant | phenylalanyltyrosine | 3.28 g | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C18H20N2O4
reactant | 4-methoxybenzoylchloride | 1.7 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
product | N-(4-methoxybenzoyl)-phenylalanyltyrosine | 2.6 g, yield of 56% | COC1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)O)C=C1 | C26H26N2O6
